US20010044538A1
A mixture of give 2-(4-fluorobenzoyl)-3-hydroxypyridine (2.2 g, 11.3 mmol), ethyl bromoacetate (1.6 ml, 14.15 mmol) and potassium carbonate (4.34 g, 31.4 mmol) in acetone (40 ml) was heated at reflux. After 3 h, the reaction was cooled to room temperature, filtered and concentrated in vacuo to give ethyl 2-[2-(4-fluorobenzoyl)pyridin-3-yloxy]acetate (3.5 g) which was used in the next step without further purification.

reactant | 2-(4-fluorobenzoyl)-3-hydroxypyridine | 11.3 mmol, 2.2 g | FC1=CC=C(C(=O)C2=NC=CC=C2O)C=C1 | C12H8FNO2
reactant | ethyl bromoacetate | 14.15 mmol, 1.6 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 31.4 mmol, 4.34 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | ethyl 2-[2-(4-fluorobenzoyl)pyridin-3-yloxy]acetate | 3.5 g | FC1=CC=C(C(=O)C2=NC=CC=C2OCC(=O)OCC)C=C1 | C16H14FNO4
